US07820699B2
40.2 (3S,4R)-4-(2-Trimethylsilanylethoxycarbonylamino)-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (1.4 g; 3 mmol) is dissolved in acetonitrile (15 ml) and TBAF (1.372 g; 4 mmol) is added under an argon atmosphere. The mixture is stirred for 18 h at 50° C. 5-Chlorothiophene-2-carboxylic acid (1.272 g; 8 mmol) is dissolved in THF (10 ml), N-methyl morpholine (0.86 ml; 8 mmol) followed by isobutyl chloroformate (1.03 ml; 8 mmol) is added at 0° C. to this solution. After 30 min stirring at 25° C. this solution is added to the reaction mixture above. After 18 h at 25° C. additional 0.5 equivalents of activated 5-chloro-thiophene-2-carboxylic acid is added. The whole mixture is stirred for 3 d at 25° C., evaporated to dryness, dissolved in DCM/THF and washed with 1N aq. HCl solution, 10% aq. Na2CO3 solution. The organic phase is dried over Na2SO4. Flash chromatography over silica gel using DCM/MeOH/NH3 as eluent yielded 0.522 g (37.2%) (3S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester. Light brown oil. MS 403.5 [M+H+].

reactant | (3S,4R)-4-(2-Trimethylsilanylethoxycarbonylamino)-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 3 mmol, 1.4 g | C(C)OC(=O)[C@H]1CN(C[C@@H]1NC(=O)OCC[Si](C)(C)C)C(=O)OC(C)(C)C | C18H34N2O6Si
reactant | TBAF | 4 mmol, 1.372 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 5-Chlorothiophene-2-carboxylic acid | 8 mmol, 1.272 g | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | N-methyl morpholine | 8 mmol, 0.86 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 8 mmol, 1.03 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 5-chloro-thiophene-2-carboxylic acid | 0.5 equivalents | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (3S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 0.522 g, 37.2% | C(C)OC(=O)[C@H]1CN(C[C@@H]1NC(=O)C=1SC(=CC1)Cl)C(=O)OC(C)(C)C | C17H23ClN2O5S
